* gnetlist -s -g spice-sdb -o oscilador.net oscilador.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
C1 1 2 200p  
C2 2 Vout 200p  
L1 1 Vout 5u 
Q1 Vout 0 2 0 npn 
.MODEL npn NPN (RB=100)
R1 3 2 2.2k  
V1 1 0 DC 5V
V2 0 3 DC 5V
.end
